US04051256
To a solution of 3-[3-(p-chlorophenyl)thioureido]tricyclo[2,2,1,02,6 ]heptane (0.25 g.) in ethanol saturated with ammonia (10 ml.) was added 0.2 g. of yellow mercuric oxide, and the mixture stirred at room temperature for 16 hours. The solids were filtered off and the clear filtrate evaporated to dryness. The residual solid was recrystallised from toluene to give 3-[3-(p-chlorphenyl)guanidino]tricyclo[2,2,1,02,6 ]heptane, m.p. 204°-205°.

reactant | 3-[3-(p-chlorophenyl)thioureido]tricyclo[2,2,1,02,6 ]heptane | 0.25 g | ClC1=CC=C(C=C1)NC(NC1C2C3C2CC1C3)=S | C14H15ClN2S
reactant | ammonia | 10 ml | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 3-[3-(p-chlorphenyl)guanidino]tricyclo[2,2,1,02,6 ]heptane | ClC1=CC=C(C=C1)NC(NC1C2C3C2CC1C3)=N | C14H16ClN3
